US06093710
Phosphorus oxychloride (0.30 ml) was added to a mixture of 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]-thiophene-2-carboxamide (0.55 g, and dimethylformamide (DMF) (6 ml) with ice-water cooling under nitrogen atmosphere, and the mixture was stirred under the same condition for 1 hour. The reaction mixture was poured into an ice-cooled mixture of an aqueous solution of NaHCO3 and AcOEt to precipitate. The precipitate was collected by filtration, washed with water, and dried in vacuo to give 4-n-butylidene-5,6,7,8-tetrahydro-2-cyano-4H-cyclohepta[b]thiophene (0.42 g), which was immediately used in the next reaction.

reactant | Phosphorus oxychloride | 0.30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]-thiophene-2-carboxamide | C(CCC)=C1CCCCC=2SC(=CC21)C(=O)N | C14H19NOS
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-n-butylidene-5,6,7,8-tetrahydro-2-cyano-4H-cyclohepta[b]thiophene | 0.42 g | C(CCC)=C1CCCCC=2SC(=CC21)C#N | C14H17NS
